************************************************************************
*
* Copyright 2023 IHP PDK Authors
* 
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
* 
*    https://www.apache.org/licenses/LICENSE-2.0
* 
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.
*
************************************************************************

* Library name: sg13g2_stdcell
* Cell name: sg13g2_tielo
* View name: schematic
.subckt sg13g2_tielo L_LO VDD VSS
XN0 net3 net2 VSS VSS sg13_lv_nmos w=385.00n l=130.00n ng=1 ad=1.309e-13 as=1.309e-13 pd=1.45e-06 ps=1.45e-06 m=1
XN1 L_LO net1 VSS VSS sg13_lv_nmos w=880.0n l=130.00n ng=1 ad=2.992e-13 as=2.992e-13 pd=2.44e-06 ps=2.44e-06 m=1
XP0 net2 net2 VDD VDD sg13_lv_pmos w=300n l=130.00n ng=1 ad=1.02e-13 as=1.02e-13 pd=1.28e-06 ps=1.28e-06 m=1
XP1 net1 net3 VDD VDD sg13_lv_pmos w=1.045u l=130.00n ng=1 ad=3.553e-13 as=3.553e-13 pd=2.77e-06 ps=2.77e-06 m=1
.ends
* End of subcircuit definition.
